* /home/kiran99/esim-workspace/subtractor/subtractor.cir

* u2  a b c net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  net-_u1-pad4_ net-_u1-pad5_ diff borrow_out dac_bridge_2
v1  a net-_r1-pad2_ pulse(0.0 1.0 100 0.001n 0.001n 100 200)
v2  b net-_r1-pad2_ pulse(0.0 1.0 50 0.001n 0.001n 50 100)
v3  c net-_r1-pad2_ pulse(0.0 1.0 25 0.001n 0.001n 25 50)
r1  a net-_r1-pad2_ 100k
r2  b net-_r1-pad2_ 100k
r3  c net-_r1-pad2_ 100k
r5  diff gnd 100k
r4  borrow_out gnd 100k
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ my_subtractor
a1 [a b c ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a2 [net-_u1-pad4_ net-_u1-pad5_ ] [diff borrow_out ] u3
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ ] u1
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=0.0 in_high=1.0 rise_delay=0.001n fall_delay=0.001n ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=1.0 out_undef=0.5 input_load=1.0e-12 t_rise=0.001n t_fall=0.001n ) 
* Schematic Name:                             my_subtractor, NgSpice Name: my_subtractor
.model u1 my_subtractor(rise_delay=0.001n fall_delay=0.001n input_load=1.0e-12 instance_id=3 ) 
.tran 0.5e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
